US03998822
One part by weight of 1,4-dimorpholino-7-phenylpyrido(3,4-d)pyridazine is dissolved in 50 parts by volume of ethanol under warming. Ten parts by volume of a 10% hydrogen chloride ethanolic solution is added to the solution and the resulting mixture is cooled to precipitate 1,4-dimorpholino-7-phenylpyrido(3,4-d)pyridazine hydrochloride. The product (one part by weight) is collected by filtration and recrystallized from 50 parts by volume of ethanol to obtain highly purities 1,4-dimorpholino-7-phenylpyrido(3,4-d)-pyridazine hydrochloride melting at 176° to 181° C as orange needles. Elementary analysis for C21H24O2N5Cl

reactant | 1,4-dimorpholino-7-phenylpyrido(3,4-d)pyridazine | O1CCN(CC1)C1=C2C(=C(N=N1)N1CCOCC1)C=NC(=C2)C2=CC=CC=C2 | C21H23N5O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1,4-dimorpholino-7-phenylpyrido(3,4-d)-pyridazine hydrochloride | Cl.O1CCN(CC1)C1=C2C(=C(N=N1)N1CCOCC1)C=NC(=C2)C2=CC=CC=C2 | InChI=1S/C21H23N5O2.ClH/c1-2-4-16(5-3-1)19-14-17-18(15-22-19)21(26-8-12-28-13-9-26)24-23-20(17)25-6-10-27-11-7-25;/h1-5,14-15H,6-13H2;1H
